US04193802
Synthesis of Compound (5): bis(3,5-Dimethylcyclohexyl)phthalate
100 ml of toluene was added to a mixture of 44.4 g (0.3 mol) of phthalic anhydride, 83.3 g (0.66 mol) of 3,5-dimethylcyclohexanol and 2 g of p-toluenesulfonic acid and the mixture was refluxed with heating for 12 hours with the azeotropic removal of 6 ml of water. After the reaction, the mixture was cooled and 200 ml of toluene was added to the mixture. The organic solvent layer was washed with water, a 5% aqueous solution of sodium hydroxide and water, in this order and dried with anhydrous sodium sulfate. After filtering the mixture, the filtrate was concentrated under reduced pressure. 50 ml of hexane was added to the concentrate and column chromatographed to obtain the desired compound. The carrier used was 800 g of Silica Gel 60 manufactured by Merck Co. Hexane and hexane-diethyl ether (9:1 in volume ratio) were used as the solvent and 105.7 g (yield 91.2%) of Compound (5) was obtained from the hexane-diethyl ether eluate.

reactant | phthalic anhydride | 0.3 mol, 44.4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 3,5-dimethylcyclohexanol | 0.66 mol, 83.3 g | CC1CC(CC(C1)C)O | C8H16O
reactant | p-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 6 ml | O | H2O
product | bis(3,5-Dimethylcyclohexyl)phthalate | CC1CC(CC(C1)C)OC(C=1C(C(=O)OC2CC(CC(C2)C)C)=CC=CC1)=O | C24H34O4
